US08486979B2
5-(3,4-difluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3,4-difluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.52-7.67 (m, 2 H), 8.12 (ddd, J=8.7, 4.3, 1.5 Hz, 1 H), 8.19 (ddd, J=10.8, 7.5, 2.0 Hz, 1 H), 8.55 (dt, J=8.1, 1.9 Hz, 1 H), 8.74 (dd, J=5.1, 1.7 Hz, 1 H), 9.29 (dd, J=2.0, 0.7 Hz, 1 H) ppm; MS (DCI/NH3) m/z 260 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3,4-difluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | NH3 | N | H3N
product | 5-(3,4-difluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | FC=1C=C(C=CC1F)C1=NC(=NO1)C=1C=NC=CC1 | C13H7F2N3O
